US07566699B2
4-(β-D-Glucopyranosyloxy)-6-methoxy-3-(2-phenylethyl)benzofuran
To a mixture of 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6-hydroxy-3-(2-phenylethyl)benzofuran (25 mg) and potassium carbonate (18 mg) in N,N-dimethylformamide (1 mL) was added iodomethane (0.007 mL), and the mixture was stirred at room temperature for 4 days. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (2 mL). To the solution was added sodium methoxide (28% methanol solution, 0.008 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give the title compound (8 mg).

reactant | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6-hydroxy-3-(2-phenylethyl)benzofuran | 25 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC(=CC2=C1C(=CO2)CCC2=CC=CC=C2)O | C30H32O12
reactant | potassium carbonate | 18 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.007 mL | IC | CH3I
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(β-D-Glucopyranosyloxy)-6-methoxy-3-(2-phenylethyl)benzofuran | 8 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=CC(=CC2=C1C(=CO2)CCC2=CC=CC=C2)OC | C23H26O8
